US04760158
tert-Butyl-4-chloromethyl-4-cyanopiperidine-1-carboxylate
A solution of 1.42M-BuLi in hexane (7.75 ml) was added dropwise to a stirred solution of diisopropylamine (1.1 g) in tetrahydrofuran (30 ml) at -50° under nitrogen. The solution was warmed to 0°, cooled to -65°, and a solution of 1-tert-butyloxycarbonyl-4-cyanopiperidine (2.1 g) in tetrahydrofuran (20 ml) added dropwise, such that the temperature remained below -65°. The mixture was warmed to ambient temperature, cooled to -65°, and added dropwise to a stirred solution of bromochloromethane (6.47 g), in tetrahydrofuran (10 ml) under nitrogen such that the temperature remained below -65°. The mixture was warmed to ambient temperature, poured into water (20 ml), and extracted with chloroform (3×100 ml). The chloroform extracts were washed with ice-cold 0.011M-potassium hydrogen sulphate solution (1000 ml) and saturated aqueous sodium hydrogen carbonate (100 ml), dried (MgSO4), and evaporated under reduced pressure to give an oil (2.8 g) which slowly crystallised. The solid was purified by trituration with hexane, chromatography (SiO2 ; Et2O) and recrystallisation from diethyl ether-hexane to give the title compound (1.02 g), m.p. 114.5°-115.5°.

reactant | BuLi | [Li]CCCC
reactant | diisopropylamine | 1.1 g | C(C)(C)NC(C)C | C6H15N
reactant | 1-tert-butyloxycarbonyl-4-cyanopiperidine | 2.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C#N | C11H18N2O2
reactant | bromochloromethane | 6.47 g | BrCCl | CH2BrCl
solvent | hexane | 7.75 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | tert-Butyl-4-chloromethyl-4-cyanopiperidine-1-carboxylate | 2.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)CCl | C12H19ClN2O2
